US04760174
(E)-4-[2-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-7-oxo-naphth-2-yl)-1-propenyl]-benzoic acid
2 g of ethyl (E)-4-[2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-7-oxonaphth-2-yl)-1-propenyl]-benzoate are stirred with 0.7 g of potassium hydroxide in a mixture of 25 ml of ethanol and 1.5 ml of water for 3 hours at 80° C. The entire reaction mass is introduced into 100 ml of water, after which the mixture is acidified with 2 N hydrochloric acid, and the resulting precipitate is filtered off, washed with cold methanol and dried to give 1.3 g of the title compound of melting point 260°-261° C.

reactant | ethyl (E)-4-[2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-7-oxonaphth-2-yl)-1-propenyl]-benzoate | 2 g | CC1(C=2C=CC(=CC2C(C(C1)=O)(C)C)/C(=C/C1=CC=C(C(=O)OCC)C=C1)/C)C | C26H30O3
reactant | potassium hydroxide | 0.7 g | [OH-].[K+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 1.5 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | (E)-4-[2-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-7-oxo-naphth-2-yl)-1-propenyl]-benzoic acid | 1.3 g | CC1(C=2C=CC(=CC2C(C(C1)=O)(C)C)/C(=C/C1=CC=C(C(=O)O)C=C1)/C)C | C24H26O3
